US09382228B2
A solution of 3-((2-chloropyridin-4-yl)oxy)-6-iodo-2-methylpyridine (8.5 g, 24.53 mmol) in dioxane (100 mL) was sparged with argon, treated with acetamide (5.07 g, 86 mmol), Cs2CO3 (11.99 g, 36.8 mmol), X-Phos (0.585 g, 1.226 mmol) and Pd2(dba)3 (1.123 g, 1.226 mmol) and heated at 83° C. for 16 h. The mixture was cooled to RT, treated with EtOAc, solids removed via filtration through diatomaceous earth, rinsed well with EtOAc, and the filtrate washed with H2O, then brine, dried over Na2SO4, concentrated to dryness and purified via silica gel chromatography (EtOAc/Hex) to afford N-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)acetamide (3.8 g, 56%) as an off-white solid. MS (ESI) m/z: 278.0 (M+H+).

reactant | 3-((2-chloropyridin-4-yl)oxy)-6-iodo-2-methylpyridine | 24.53 mmol, 8.5 g | ClC1=NC=CC(=C1)OC=1C(=NC(=CC1)I)C | C11H8ClIN2O
reactant | acetamide | 86 mmol, 5.07 g | C(C)(=O)N | C2H5NO
reactant | Cs2CO3 | 36.8 mmol, 11.99 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 1.226 mmol, 1.123 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | X-Phos | 1.226 mmol, 0.585 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | N-(5-((2-chloropyridin-4-yl)oxy)-6-methylpyridin-2-yl)acetamide | 3.8 g, 56% | ClC1=NC=CC(=C1)OC=1C=CC(=NC1C)NC(C)=O | C13H12ClN3O2
